US08557805B2
N-Ethyl-2-[2-(7-ethyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetamide
To a mixed solution of 2.0M-ethylamine tetrahydrofuran solution (0.33 mL), [2-(7-ethyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetic acid (200 mg), and N,N-dimethylformamide (10 mL) were added 1-hydroxybenzotriazole (89 mg), and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (125 mg) under ice-cooling, and the mixture was stirred under ice-cooling and then at room temperature for 15 hr. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with aqueous sodium hydrogen carbonate solution and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:methanol=100:0 to 90:10, volume ratio), and the obtained pale-yellow oil was recrystallized from ethyl acetate-hexane to give the title compound (92 mg, yield 44%) as colorless crystals.

reactant | ethylamine tetrahydrofuran | 0.33 mL | O1CCCC1.C(C)N
reactant | [2-(7-ethyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetic acid | 200 mg | C(C)C=1C=C(C=C2C=C(NC12)C=1SC(CN1)CC(=O)O)OC=1C=NC(=CC1)S(=O)(=O)C | C21H21N3O5S2
reactant | 1-hydroxybenzotriazole | 89 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 125 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-Ethyl-2-[2-(7-ethyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetamide | 92 mg, yield 44% | C(C)NC(CC1CN=C(S1)C=1NC2=C(C=C(C=C2C1)OC=1C=NC(=CC1)S(=O)(=O)C)CC)=O | C23H26N4O4S2
